US05817806
A solution of 2(S) 2-methoxycyclohexanone (4.089 g) and (3S,4R)-4-acetoxy-3[(R)-(t-butyldimethylsilyloxy)ethyl]azetidinone (4.63 g) in dichloromethane (140 ml) was prepared at -16°. Tin tetrachloride (14.3 g) was added dropwise via syringe at such a rate that the temperature was kept beetween -16° and -13°. The mixture was stirred for 10 minutes, then the temperature was increased to +3°. A solution of di-isopropylethylamine (5.33 g) dissolved in dichloromethane (40 ml) was added over 20 minutes. The reaction mixture was stirred for 10 minutes at +3°, then the reaction mixture was poured into 300 ml of a 1:1 mixture of sodium bicarbonate (saturated) and Rochelle's salt (saturated) and extracted into diethylether (500 ml) with vigorous stirring over 1 h. The organic layer was washed with saturated brine(150 ml), dried and the solvent removed to give an white solid (7.10 g). The crude solid was taken up in hot n-hexane (175 ml), filtered and the volume reduced to 75 ml. The resulting mixture was warmed to completely dissolve the solid. The resultant solution was cooled and stirred and the title compound was isolated by filtration as a white solid (3.03 g).

reactant | Tin tetrachloride | 14.3 g | [Sn](Cl)(Cl)(Cl)Cl
reactant | di-isopropylethylamine | 5.33 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | Rochelle's salt | [C@@H]([C@H](C(=O)[O-])O)(C(=O)[O-])O.[Na+].[K+]
solvent | dichloromethane | 140 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
product | 2-methoxycyclohexanone | 4.089 g | COC1C(CCCC1)=O | C7H12O2
